US04588746
Diethylamine (27.6 g, 39 ml) is added dropwise with shaking to 3-chlorobenzylmalonic acid monoethyl ester (90.0 g) [Chem. Ber. 92, 203 (1959)], in a flask cooled in a water bath. Aqueous formaldehyde (37%, 38 ml) is added dropwise with shaking and cooling as before. Gas is evolved, and the reaction mixture becomes lighter in color. The mixture is stirred at room temperature for 65 hours, then water (500 ml) is added, and the solution extracted with ether (2×350 ml). The combined ether solutions are washed with water (300 ml), 3N HCl (2×200 ml) and water (300 ml). The ether solution is dried over magnesium sulfate, and the solvent removed under reduced pressure to give ethyl α-(3-chlorobenzyl)acrylate as a yellow oil, NMR (CDCl3)δ: 7.15 (m, 4H), 6.22 (s, 1H), 5.45 (m, 1H), 4.13 (q, 2H), 3.58 (s, 2H), 1.23 (t, 3H).

reactant | Diethylamine | 39 ml, 27.6 g | C(C)NCC | C4H11N
reactant | 3-chlorobenzylmalonic acid monoethyl ester | 90.0 g | C(C)OC(C(C(=O)O)CC1=CC(=CC=C1)Cl)=O | C12H13ClO4
reactant | formaldehyde | 38 ml | C=O | CH2O
solvent | water | 500 ml | O | H2O
product | ethyl α-(3-chlorobenzyl)acrylate | ClC=1C=C(CC(C(=O)OCC)=C)C=CC1 | C12H13ClO2
